US07754727B2
B. 1-Bromo-3-(4-methoxy-but-1-enyl)-benzene
To a stirred solution of NaHMDS (9.02 g, 49.2 mmol) in THF (50 mL) under nitrogen atmosphere is added drop wise at 0° C. a THF solution (50 mL) of the title A compound, (3-methoxy-propyl)-triphenyl-phosphonium bromide (20.4 g, 49.2 mmol). The resulting mixture is stirred for 1 h at 0° C. before the addition of a THF solution (50 mL) of m-bromobenzaldehyde (7 g, 37.8 mmol). The reaction mixture is further stirred for 2 h at room temperature and poured into a saturated NH4Cl aqueous solution, the aqueous layer is extracted twice with EtOAc. The combined organic extracts are dried over anhydrous magnesium sulfate and concentrated under reduced pressure. The residue is taken up into ether and the triphenylphosphine oxide precipitate is filtered off through a pad of celite. The filtrate is concentrate and the residual material purified by flash column chromatography on silica gel (hexane/EtOAc 95/5) to afford the title compound (as a mixture Z and E stereoisomers) as a yellow oil: Rt (HPLC, Nucleosil C18, 10:90-100:0 CH3CN/H2O+0.1% TFA within 5 min, then 100% CH3CN+0.1% TFA): 6.30 min.

reactant | NaHMDS | 49.2 mmol, 9.02 g | C[Si](C)(C)[N-][Si](C)(C)C.[Na+]
reactant | (3-methoxy-propyl)-triphenyl-phosphonium bromide | 49.2 mmol, 20.4 g | [Br-].COCCC[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1
reactant | m-bromobenzaldehyde | 37.8 mmol, 7 g | BrC=1C=C(C=O)C=CC1 | C7H5BrO
reactant | NH4Cl | [NH4+].[Cl-]
solvent | THF | 50 mL | C1CCOC1 | C4H8O
solvent | THF | 50 mL | C1CCOC1 | C4H8O
solvent | THF | 50 mL | C1CCOC1 | C4H8O
product | 1-Bromo-3-(4-methoxy-but-1-enyl)-benzene | BrC1=CC(=CC=C1)C=CCCOC | C11H13BrO
